### PR TITLE
[Merged by Bors] - feat(LinearAlgebra): dual of tensor is tensor of duals for finite projective modules

### PR DESCRIPTION
**Pull request by YaelDillies**
Generalise this isomorphism and many similar ones from finite free to finite projective. To be able to deduce some isos from some other ones, I had to move them around in a preliminary PR. Note that #40297 made of the changes that the current PR was intending to do but not all, hence the slightly mangled diff.

Also change the defeq of `homTensorHomEquiv` so that it is *not* defeq to `homTensorHomMap` (but would be if `homTensorHomMap` became heterobasic). This makes `BilinForm.tensorDistribEquiv` defeq to `BilinForm.tensorDistrib`.

Also tag `LinearEquiv.congrRight` with `simps` to generate some required simp lemmas.

Human generated then golfed and edited with Claude Opus, then human-edited some more.

From FLT, PersistentDecomp

Co-authored-by: Edison Xie
Co-authored-by: Andrew Yang <the.erd.one@gmail.com>
Assisted-by: Claude Opus 4.8

---
This is a cleaned up version of #21829 reopened from a fork.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/TensorProduct/Map.lean [hunk 1]
```diff
@@ -741,3 +741,29 @@ lemma tensorProductComm_def (eA : A ≃ A') (eB : B ≃ B') :
...
+    |                                     |
+    | map f.lcomp f'.lcomp                | (map f f').lcomp
+    ↓                                     ↓
+Hom(M', P) ⊗ Hom(N', Q) -------------> Hom(M' ⊗ N', P ⊗ Q)
+           homTensorHomMap
+```
+-/
+lemma homTensorHomMap_comp_map_lcomp (f : M' →ₗ[R] M) (f' : N' →ₗ[R] N) :
+    homTensorHomMap (.id R) M' N' P Q ∘ₗ map (f.lcomp R P) (f'.lcomp R Q) =
+      (map f f').lcomp R (P ⊗[R] Q) ∘ₗ homTensorHomMap (.id R) M N P Q := by  ext; simp
```
Comment (Whysoserioushah) [inline Mathlib/LinearAlgebra/TensorProduct/Map.lean]:
```suggestion
      (map f f').lcomp R (P ⊗[R] Q) ∘ₗ homTensorHomMap (.id R) M N P Q := by ext; simp
```

File: Mathlib/LinearAlgebra/Contraction.lean [hunk 2]
```diff
@@ -15,6 +15,14 @@ Given modules $M, N$ over a commutative ring $R$, this file defines the natural
 $M^* \otimes M \to R$, $M \otimes M^* \to R$, and $M^* \otimes N → Hom(M, N)$, as well as proving
 some basic properties of these maps.
 
+It also constructs linear equivalences between tensor products of hom modules and hom modules of
+tensor products:
+* `lTensorHomEquivHomLTensor`: `P ⊗ Hom(M, Q) ≃ₗ Hom(M, P ⊗ Q)` for `M` finite free
```
Comment (Deicyde) [inline Mathlib/LinearAlgebra/Contraction.lean]: Can we replaces the assumption "`M` finite free" here with "`M` finitely generated projective"?

**Comment by YaelDillies** [comment]
Opus only golfed the proof of `homTensorHomEquiv`. Everything else was done manually by me.

File: Mathlib/LinearAlgebra/Contraction.lean [hunk 3]
```diff
@@ -161,46 +168,88 @@ theorem dualTensorHomEquivOfBasis_symm_cancel_right (x : M →ₗ[R] N) :
...
+    dualTensorHom R M' N ∘ₗ f.dualMap.rTensor N = f.lcomp R N ∘ₗ dualTensorHom R M'' N := by
+  ext g n m
+  simp [dualTensorHom_apply, LinearMap.lcomp_apply]
+
+/-- `Hom(M, R) ⊗ N` is isomorphic to `Hom(M, N)` for finite free `M`.
+
+This is private because `dualTensorHom_bijective` generalises this to finite projective `M`. -/
+private lemma dualTensorHom_bijective' [Module.Finite R M] [Free R M] :
+    Bijective (dualTensorHom R M N) :=
+  (dualTensorHomEquivOfBasis (Free.chooseBasis R M)).bijective
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Contraction.lean]: Might as well inline this. No?

**Review by erdOne — APPROVED** [review]

File: Mathlib/LinearAlgebra/TensorProduct/Map.lean [hunk 4]
```diff
@@ -741,3 +741,29 @@ lemma tensorProductComm_def (eA : A ≃ A') (eB : B ≃ B') :
...
+  [AddCommMonoid M] [AddCommMonoid N] [AddCommMonoid M'] [AddCommMonoid N']
+  [AddCommMonoid P] [AddCommMonoid Q]
+  [Module R M] [Module R N] [Module R M'] [Module R N'] [Module R P] [Module R Q]
+
+open LinearMap
+
+attribute [local ext high] TensorProduct.ext in
+/-- `homTensorHomMap` is natural with respect to precomposition:
+```
+           homTensorHomMap
```
Comment (kbuzzard) [inline Mathlib/LinearAlgebra/TensorProduct/Map.lean]: Add some spaces so that the label is actually above the arrow? (and on line 762?)

File: Mathlib/LinearAlgebra/Contraction.lean [hunk 5]
```diff
@@ -122,6 +127,8 @@ theorem toMatrix_dualTensorHom {m : Type*} {n : Type*} [Fintype m] [Finite n] [D
   · rw [and_iff_not_or_not, Classical.not_not] at hij
     rcases hij with hij | hij <;> simp [LinearMap.toMatrix_apply, Finsupp.single_eq_pi_single, hij]
 
+variable {ι : Type*} [DecidableEq ι] [Fintype ι] (b : Basis ι R M) (b : Basis ι R M)
```
Comment (kbuzzard) [inline Mathlib/LinearAlgebra/Contraction.lean]:
```suggestion
variable {ι : Type*} [DecidableEq ι] [Fintype ι] (b : Basis ι R M)
```

File: Mathlib/LinearAlgebra/Contraction.lean [hunk 6]
```diff
@@ -161,46 +168,82 @@ theorem dualTensorHomEquivOfBasis_symm_cancel_right (x : M →ₗ[R] N) :
...
+  · rw [← LinearMap.coe_comp, ← dualTensorHom_comp_rTensor_dualMap f, LinearMap.coe_comp]
+    exact (dualTensorHomEquivOfBasis <| Pi.basisFun ..).injective.comp hf
+  · obtain ⟨t, ht⟩ := (dualTensorHomEquivOfBasis <| Pi.basisFun ..).surjective (f.lcomp R N φ)
+    refine ⟨g.dualMap.rTensor N t, ?_⟩
+    simp only [dualTensorHomEquivOfBasis_apply] at ht
+    have key := DFunLike.congr_fun (dualTensorHom_comp_rTensor_dualMap g) t
+    rw [LinearMap.comp_apply, LinearMap.comp_apply, ht] at key
+    rw [key, lcomp_apply', lcomp_apply', LinearMap.comp_assoc, hfg, LinearMap.comp_id]
+
+variable [Module.Finite R M] [Projective R M]
```
Comment (kbuzzard) [inline Mathlib/LinearAlgebra/Contraction.lean:269]: This could go above the lemma

File: Mathlib/LinearAlgebra/TensorProduct/Map.lean [hunk 7]
```diff
@@ -741,3 +741,29 @@ lemma tensorProductComm_def (eA : A ≃ A') (eB : B ≃ B') :
...
+                        homTensorHomMap
+Hom(M, P) ⊗ Hom(N, Q) ---------------> Hom(M ⊗ N, P ⊗ Q)
+    |                                     |
+    | map f.lcomp f'.lcomp                | (map f f').lcomp
+    ↓                                     ↓
+Hom(M', P) ⊗ Hom(N', Q) -------------> Hom(M' ⊗ N', P ⊗ Q)
+                        homTensorHomMap
+```
+-/
+lemma homTensorHomMap_comp_map_lcomp (f : M' →ₗ[R] M) (f' : N' →ₗ[R] N) :
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/TensorProduct/Map.lean]: Is it possible to move this near `homTensorHomMap`

File: Mathlib/LinearAlgebra/Contraction.lean [hunk 8]
```diff
@@ -242,35 +285,111 @@ theorem rTensorHomEquivHomRTensor_apply (x : (M →ₗ[R] P) ⊗[R] Q) :
...
+isomorphism `R ⊗ R ≃ R`.
+-/
+noncomputable def dualDistribEquiv : Dual R M ⊗[R] Dual R N ≃ₗ[R] Dual R (M ⊗[R] N) :=
+  homTensorHomEquiv R M N R R ≪≫ₗ (TensorProduct.rid R R).congrRight
+
+@[simp] lemma toLinearMap_dualDistribEquiv : dualDistribEquiv R M N = dualDistrib R M N := by
+  ext; simp [dualDistribEquiv, mul_comm]
+
+@[simp] lemma dualDistribEquiv_apply (x : Dual R M ⊗[R] Dual R N) :
+    dualDistribEquiv R M N x = dualDistrib R M N x := congr($toLinearMap_dualDistribEquiv x)
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Contraction.lean]: I'm not sure if we want this to be a simp lemma. This makes the simp set non-confluent for things like `dualDistribEquiv R M N x = 0 <-> x = 0`. 
Can you keep it as a lemma (could it be refl?) and add the lemma analogous to [`TensorProduct.dualDistrib_apply`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Dual/Lemmas.html#TensorProduct.dualDistrib_apply) as simp?

File: Mathlib/LinearAlgebra/Contraction.lean [hunk 9]
```diff
@@ -242,35 +285,111 @@ theorem rTensorHomEquivHomRTensor_apply (x : (M →ₗ[R] P) ⊗[R] Q) :
...
-variable {R M N P Q}
+variable [CommSemiring R] [AddCommMonoid M] [AddCommMonoid N]
+  [Module R M] [Module R N] [AddCommMonoid P] [AddCommMonoid Q] [Module R P] [Module R Q]
+
+variable [Module.Finite R M] [Module.Finite R N] [Projective R M] [Projective R N]
+
+variable (R M N P Q) in
+/-- For `M`, `N` finitely generated projective modules, `Hom (M, P) ⊗ Hom (N, Q)` is linearly
+equivalent to `Hom(M ⊗ N, P ⊗ Q)` via the map `homTensorHomMap`. -/
+@[simps! apply]
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Contraction.lean]: Similarly this apply also scares me. perhaps add `homTensorHomEquiv (f \ox g) = map f g`.

File: Mathlib/LinearAlgebra/Contraction.lean [hunk 10]
```diff
@@ -161,46 +168,84 @@ theorem dualTensorHomEquivOfBasis_symm_cancel_right (x : M →ₗ[R] N) :
...
+variable (R M N) in
+/-- If `M` is finite projective, the natural map $M^* ⊗ N → Hom(M, N)$ is an equivalence. -/
+noncomputable def dualTensorHomEquiv : Dual R M ⊗[R] N ≃ₗ[R] M →ₗ[R] N :=
+  .ofBijective (dualTensorHom R M N) dualTensorHom_bijective
+
+@[simp] lemma dualTensorHomEquiv_toLinearMap :
+    (dualTensorHomEquiv R M N).toLinearMap = dualTensorHom R M N := rfl
+
+@[simp] lemma dualTensorHomEquiv_apply (x : Dual R M ⊗[R] N) :
+    dualTensorHomEquiv R M N x = dualTensorHom R M N x := rfl
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Contraction.lean]: Also this.

File: Mathlib/LinearAlgebra/Contraction.lean [hunk 11]
```diff
@@ -439,25 +467,12 @@ theorem dualDistrib_dualDistribInvOfBasis_right_inverse (b : Basis ι R M) (c :
 
 /-- A linear equivalence between `Dual M ⊗ Dual N` and `Dual (M ⊗ N)` given bases for `M` and `N`.
 It sends `f ⊗ g` to the composition of `TensorProduct.map f g` with the natural
-isomorphism `R ⊗ R ≃ R`.
--/
-@[simps!]
+isomorphism `R ⊗ R ≃ R`. -/
+@[simps!, deprecated dualDistribEquiv (since := "2026-07-07")]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Contraction.lean]: when you do `@[simps, deprecated ..]` does it also deprecate the simps lemmas?

Comment (YaelDillies) [reply Mathlib/LinearAlgebra/Contraction.lean]: No, I don't think so

File: Mathlib/LinearAlgebra/Contraction.lean [hunk 12]
```diff
@@ -272,13 +263,46 @@ theorem dualTensorHom_bijective_of_finite_left_projective_right [Module.Finite R
...
+noncomputable def dualTensorHomEquiv : Dual R M ⊗[R] N ≃ₗ[R] M →ₗ[R] N :=
+  .ofBijective (dualTensorHom R M N) dualTensorHom_bijective
+
+@[simp] lemma dualTensorHomEquiv_toLinearMap :
+    (dualTensorHomEquiv R M N).toLinearMap = dualTensorHom R M N := rfl
+
+@[simp] lemma dualTensorHomEquiv_apply (f : Dual R M) (m : M) (n : N) :
+    dualTensorHomEquiv R M N (f ⊗ₜ n) m = f m • n := rfl
+
+@[simp] lemma dualTensorHomEquiv_symm_cancel_left (x : Dual R M ⊗[R] N) :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Contraction.lean]: I'd just call this `dualTensorHomEquiv_symm_dualTensorHom`

File: Mathlib/LinearAlgebra/Contraction.lean [hunk 13]
```diff
@@ -272,13 +263,46 @@ theorem dualTensorHom_bijective_of_finite_left_projective_right [Module.Finite R
...
+    (dualTensorHomEquiv R M N).symm (dualTensorHom R M N x) = x :=
+  (dualTensorHomEquiv R M N).symm_apply_apply _
+
+@[simp] lemma dualTensorHom_dualTensorHomEquiv_symm (x : M →ₗ[R] N) :
+    dualTensorHom R M N ((dualTensorHomEquiv R M N).symm x) = x :=
+  (dualTensorHomEquiv R M N).apply_symm_apply _
+
+@[simp] lemma dualTensorHomEquivOfBasis_eq_dualTensorHomEquiv [DecidableEq ι] [Fintype ι]
+    (b : Basis ι R M) : dualTensorHomEquivOfBasis b = dualTensorHomEquiv R M N := by
+  apply LinearEquiv.toLinearMap_injective; ext; simp
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Contraction.lean:303]: can you deprecate [dualTensorHomEquiv_eq_dualTensorHomEquivOfBasis](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Contraction.html#dualTensorHomEquiv_eq_dualTensorHomEquivOfBasis) in favour of this new one

File: Mathlib/LinearAlgebra/Contraction.lean [hunk 14]
```diff
@@ -352,82 +372,91 @@ theorem rTensorHomEquivHomRTensor_apply (x : (M →ₗ[R] P) ⊗[R] Q) :
...
 end CommSemiring
 
 end HomTensorHom
 
 namespace TensorProduct
+variable [CommSemiring R] [AddCommMonoid M] [AddCommMonoid N] [Module R M] [Module R N]
 
-open LinearMap Module
+section
+variable [Module.Finite R M] [Module.Finite R N] [Module.Free R M] [Module.Free R N]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Contraction.lean]:
```suggestion
variable [Module.Finite R M] [Module.Finite R N] [Projective R M] [Projective R N]
```

Comment (themathqueen) [reply Mathlib/LinearAlgebra/Contraction.lean]: I think you can also generalize [LinearMap.BilinForm.tensorDistribEquiv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/BilinearForm/TensorProduct.html#LinearMap.BilinForm.tensorDistribEquiv) the same way? I haven't tried, but it's the only definition using `dualDistribEquiv`.

Comment (YaelDillies) [reply Mathlib/LinearAlgebra/Contraction.lean]: Wait, this change was the whole point of the PR. How did I manage to revert it 🤦

Comment (themathqueen) [reply Mathlib/LinearAlgebra/Contraction.lean]: Oh yeah, it's in the title lol

File: Mathlib/LinearAlgebra/Contraction.lean [hunk 15]
```diff
@@ -272,14 +263,48 @@ theorem dualTensorHom_bijective_of_finite_left_projective_right [Module.Finite R
...
-    Module.Dual R M ⊗[R] N ≃ₗ[R] M →ₗ[R] N :=
-  .ofBijective _ (dualTensorHom_bijective ..)
+/-- If `M` is finite projective, the natural map $M^* ⊗ N → Hom(M, N)$ is an equivalence. -/
+noncomputable def dualTensorHomEquiv : Dual R M ⊗[R] N ≃ₗ[R] M →ₗ[R] N :=
+  .ofBijective (dualTensorHom R M N) dualTensorHom_bijective
 
+@[simp] lemma dualTensorHomEquiv_toLinearMap :
+    (dualTensorHomEquiv R M N).toLinearMap = dualTensorHom R M N := rfl
+
+@[simp] lemma dualTensorHomEquiv_apply (f : Dual R M) (m : M) (n : N) :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Contraction.lean]: I would call this `_tmul` instead of `_apply`

File: Mathlib/LinearAlgebra/Contraction.lean [hunk 16]
```diff
@@ -272,14 +263,48 @@ theorem dualTensorHom_bijective_of_finite_left_projective_right [Module.Finite R
...
-equivalence. -/
-@[simp]
-noncomputable def dualTensorHomEquiv [Module.Finite R M] [Projective R M] :
-    Module.Dual R M ⊗[R] N ≃ₗ[R] M →ₗ[R] N :=
-  .ofBijective _ (dualTensorHom_bijective ..)
+/-- If `M` is finite projective, the natural map $M^* ⊗ N → Hom(M, N)$ is an equivalence. -/
+noncomputable def dualTensorHomEquiv : Dual R M ⊗[R] N ≃ₗ[R] M →ₗ[R] N :=
+  .ofBijective (dualTensorHom R M N) dualTensorHom_bijective
 
+@[simp] lemma dualTensorHomEquiv_toLinearMap :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Contraction.lean]: (non-blocking comment): I would like `toLinearMap_dualTensorHomEquiv` here more

File: Mathlib/LinearAlgebra/Contraction.lean [hunk 17]
```diff
@@ -352,82 +372,91 @@ theorem rTensorHomEquivHomRTensor_apply (x : (M →ₗ[R] P) ⊗[R] Q) :
...
-open LinearMap Module
+section
+variable [Module.Finite R M] [Module.Finite R N] [Projective R M] [Projective R N]
 
-variable {R M N : Type*} {ι κ : Type*}
-variable [DecidableEq ι] [DecidableEq κ]
-variable [Fintype ι] [Fintype κ]
+variable (R M N) in
+/--
+A linear equivalence between `Dual M ⊗ Dual N` and `Dual (M ⊗ N)` when `M` and `N` are finite free
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Contraction.lean]:
```suggestion
A linear equivalence between `Dual M ⊗ Dual N` and `Dual (M ⊗ N)` when `M` and `N` are finite projective
```

File: Mathlib/LinearAlgebra/Contraction.lean [hunk 18]
```diff
@@ -352,82 +372,91 @@ theorem rTensorHomEquivHomRTensor_apply (x : (M →ₗ[R] P) ⊗[R] Q) :
     rTensorHomEquivHomRTensor R M P Q x = rTensorHomToHomRTensor (.id R) M P Q x := by
   rw [← LinearEquiv.coe_toLinearMap, rTensorHomEquivHomRTensor_toLinearMap]
 
-variable (R M N P Q) [Projective R N] [Module.Finite R N]
+variable [Projective R N] [Module.Finite R N]
 
+variable (R M N P Q) in
 /-- When `M` and `N` are free `R` modules, the map `homTensorHomMap` is an equivalence. Note that
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Contraction.lean]:
```suggestion
/-- When `M` and `N` are projective `R` modules, the map `homTensorHomMap` is an equivalence. Note that
```

File: Mathlib/LinearAlgebra/Contraction.lean [hunk 19]
```diff
@@ -352,82 +372,91 @@ theorem rTensorHomEquivHomRTensor_apply (x : (M →ₗ[R] P) ⊗[R] Q) :
...
-/-- When `M` and `N` are free `R` modules, the map `homTensorHomMap` is an equivalence. Note that
-`homTensorHomEquiv` is not defined directly in terms of `homTensorHomMap`, but the equivalence
-between the two is given by `homTensorHomEquiv_toLinearMap` and `homTensorHomEquiv_apply`.
--/
+variable (R M N P Q) in
+/-- When `M` and `N` are projective `R` modules, the map `homTensorHomMap` is an equivalence.
+
+Note that `homTensorHomEquiv` is not defined directly in terms of `homTensorHomMap`, but the
+equivalence between the two is given by `homTensorHomEquiv_toLinearMap` and
+`homTensorHomEquiv_apply`. -/
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Contraction.lean]: delete?

File: Mathlib/LinearAlgebra/Contraction.lean [hunk 20]
```diff
@@ -352,82 +372,91 @@ theorem rTensorHomEquivHomRTensor_apply (x : (M →ₗ[R] P) ⊗[R] Q) :
...
 
-variable (R M N P Q) [Projective R N] [Module.Finite R N]
+variable [Projective R N] [Module.Finite R N]
 
-/-- When `M` and `N` are free `R` modules, the map `homTensorHomMap` is an equivalence. Note that
-`homTensorHomEquiv` is not defined directly in terms of `homTensorHomMap`, but the equivalence
-between the two is given by `homTensorHomEquiv_toLinearMap` and `homTensorHomEquiv_apply`.
--/
+variable (R M N P Q) in
+/-- When `M` and `N` are projective `R` modules, the map `homTensorHomMap` is an equivalence.
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Contraction.lean]:
```suggestion
/-- When `M` and `N` are finite projective `R` modules, the map `homTensorHomMap` is an equivalence.
```

File: Mathlib/LinearAlgebra/Contraction.lean [hunk 21]
```diff
@@ -352,82 +372,91 @@ theorem rTensorHomEquivHomRTensor_apply (x : (M →ₗ[R] P) ⊗[R] Q) :
...
+    dualDistribEquiv R M N (f ⊗ₜ g) (m ⊗ₜ n) = g n * f m := rfl
 
-/-- An inverse to `TensorProduct.dualDistrib` given bases.
--/
+end
+
+variable {ι κ : Type*} [Fintype ι] [Fintype κ] [DecidableEq ι] [DecidableEq κ]
+
+/-- An inverse to `TensorProduct.dualDistrib` given bases. -/
+@[deprecated dualDistribEquiv (since := "2026-07-07")]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Contraction.lean]: can you update the dates on these?

**Review by themathqueen — APPROVED** [review]
I think this is ready now, thanks,

maintainer delegate

File: Mathlib/LinearAlgebra/Contraction.lean [hunk 22]
```diff
@@ -352,82 +372,91 @@ theorem rTensorHomEquivHomRTensor_apply (x : (M →ₗ[R] P) ⊗[R] Q) :
...
+noncomputable def dualDistribEquiv : Dual R M ⊗[R] Dual R N ≃ₗ[R] Dual R (M ⊗[R] N) :=
+  homTensorHomEquiv R M N R R ≪≫ₗ (TensorProduct.rid R R).congrRight
 
-attribute [local ext] TensorProduct.ext
+@[simp] lemma toLinearMap_dualDistribEquiv : dualDistribEquiv R M N = dualDistrib R M N := by
+  ext; simp [dualDistribEquiv, mul_comm]
 
-variable [CommSemiring R] [AddCommMonoid M] [AddCommMonoid N]
-variable [Module R M] [Module R N]
+@[simp] lemma dualDistribEquiv_apply (f : Dual R M) (g : Dual R N) (m : M) (n : N) :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Contraction.lean]: actually can you rename this to `_tmul` as well?

File: Mathlib/LinearAlgebra/Contraction.lean [hunk 23]
```diff
@@ -352,82 +372,91 @@ theorem rTensorHomEquivHomRTensor_apply (x : (M →ₗ[R] P) ⊗[R] Q) :
...
 
-variable {R M N : Type*} {ι κ : Type*}
-variable [DecidableEq ι] [DecidableEq κ]
-variable [Fintype ι] [Fintype κ]
+variable (R M N) in
+/-- A linear equivalence between `Dual M ⊗ Dual N` and `Dual (M ⊗ N)` when `M` and `N` are finite
+projective modules. It sends `f ⊗ g` to the composition of `TensorProduct.map f g` with the natural
+isomorphism `R ⊗ R ≃ R`.
+-/
+noncomputable def dualDistribEquiv : Dual R M ⊗[R] Dual R N ≃ₗ[R] Dual R (M ⊗[R] N) :=
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Contraction.lean:416]: oh and can you add a note that says it's not defined directly via `dualDistrib` like the others

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
